US08278336B2
Step 6: 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one
A mixture of 21.6 g (59.2 mmol) 3-(1-benzylpiperidin-4-yl)-7-methoxy-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one and 2.5 g palladium on charcoal (10%) in 300 mL methanol was hydrogenated in a 3 bar hydrogen atmosphere at 50° C. until the reaction was complete. The catalyst was removed by suction filtering and the mother liquor was concentrated by rotary evaporation. The residue was triturated with DIPE, suction filtered, washed with DIPE and dried.

reactant | 3-(1-benzylpiperidin-4-yl)-7-methoxy-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 59.2 mmol, 21.6 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O | C22H27N3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 2.5 g | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
